Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
oxycodone
 
Attending: ___.
 
Chief Complaint:
vulvar lesion
 
Major Surgical or Invasive Procedure:
RADICAL BILATERAL VULVECTOMY; BILATERAL V-Y fasciocutaneous flap

 
History of Present Illness:
___ G5P5 presents with a left vulvar lesion, found to be
grade 2 squamous cell carcinoma on biopsy. She has had years of
severe vulvar itching, and has been treated for lichenoid
dermatitis since at least ___.  She noted an abrupt shift in
approx. ___, when she noted a left vulvar lump, which has
grown quite rapidly.  She is unable to sit comfortably, ambulate
easily , or work because of pain associated with her vulvar
lesion.  Denies vaginal bleeding, hematuria, hematochezia.   She
denies any early satiety, unintentional weight changes,
nausea/vomiting, SOB/CP, increased abdominal girth, abdominal or
pelvic pain, postmenopausal/abnormal bleeding, vaginal 
discharge,
or change in her bowel or bladder habits.  7 lb wt gain after
quitting smoking in ___.
 
Past Medical History:
Cataracts, s/p surgery ___
Overactive bladder, managed with lifestyle changes
Retinal surgery ___
Cesarean
Laparoscopic cholecystectomy
 
Social History:
___
Family History:
Denies a known family history of breast, ovarian, uterine,
cervical, or colon malignancy. Father with stomach cancer
 
Physical Exam:
Preoperative physical exam:
General: NAD, sitting uncomfortably with legs wide
Lymph: no supraclavicular or inguinal lymphadenopathy
CV: RRR
Resp: LCTAB
Abd: Soft, NT, ND, obese.  Well-healed laparoscopic incisions
and pfannensteil
Pelvic: 
External:  Normal right vulva.  Left labium majus with 6x5cm
vulvar mass, extending midline up to the vagina but not into the
vagina; 2 cm from the clitoral hood, 2 cm from the urethra, and
1.5cm from the anal verge.
SSE: no vaginal lesions.  Moderate atrophy.  Cervix unable to be
completely visualized because of patient discomfort with
examination
SVE: uterus normal size shape and contour, exam limited by
patient's discomfort.
Rectal: Labial mass within 1.5 cm of the anal verge.  Normal
anus.  No rectal masses.  Normal rectal tone.
Ext:  Inguinal folds with evidence of irritation, tumor does
not extend to inguinal folds or legs.  No significant ___ edema

On day of discharge:
Afebrile, vitals stable
Gen: No acute distress
CV: RRR
Pulm: CTAB 
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: non-tender, non-edematous
 
Pertinent Results:
___ 07:17AM BLOOD WBC-10.2* RBC-2.95* Hgb-8.9* Hct-28.5* 
MCV-97 MCH-30.2 MCHC-31.2* RDW-13.2 RDWSD-46.5* Plt ___
___ 07:17AM BLOOD Glucose-103* UreaN-22* Creat-0.8 Na-140 
K-5.0 Cl-105 HCO3-27 AnGap-8*
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing a radical bilateral vulvectomy and bilateral 
V-Y fasciocutaneous flap for stage III squamous cell carcinoma. 
Please see the operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV morphine and 
toradol. Her diet was advanced without difficulty and she was 
transitioned to oral Tramadol and acetaminophen . On 
post-operative day #3, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. Patient 
was complaining of difficulty with emptying her bladder and she 
had post-void residuals of ___, thus an attempt to replace 
the catheter was made, but unsuccessful due to patient 
discomfort and swelling. Thus, counseled to continue with a 
strict schedule of timed voids.

By post-operative day 4, she was tolerating a regular diet, 
voiding spontaneously, ambulating with assistance, and pain was 
controlled with oral medications. She was then discharged to a 
rehabilitation facility in stable condition.
 
Medications on Admission:
vicodin
clotrimazole cream
ibuprofen
miconazole powder
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
Do not take more than 4000 mg per day.
 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*2 
2.  Docusate Sodium 100 mg PO BID 
Hold for loose bowel movements. 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
3.  Enoxaparin Sodium 40 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg subcutaneous daily Disp #*28 
Syringe Refills:*0 
4.  Senna 17.2 mg PO HS 
Hold for loose bowel movements.  
RX *sennosides [senna] 8.6 mg ___ tablets by mouth at bedtime 
Disp #*60 Tablet Refills:*2 
5.  TraMADol 25 mg PO Q6H:PRN pain 
Do not drive or drink alcohol while taking this medication. 
RX *tramadol 50 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
vulvar cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

Vulvar Incision care:  
* You may stand, walk, and lay down flat or on your side. DO NOT 
SIT FOR 3 WEEKS. DO NOT OPEN YOUR LEGS APART FOR 3 WEEKS. 
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* please use ___ bottle to clean the vulva with warm water 
after each time you use the bathroom and pat dry afterwards
* Use ice packs on the vulva for ___ days after surgery to help 
with the swelling.  
* Take Colace stool softener ___ times daily and senna once a 
day to help keep your stool soft and prevent constipation and 
straining. ___ hold for loose stool.

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.  

Lovenox injections:
* Patients having surgery for cancer have risk of developing 
blood clots after surgery. This risk is highest in the first 
four weeks after surgery. You will be discharged with a daily 
Lovenox (blood thinning) medication. This is a preventive dose 
of medication to decrease your risk of a forming a blood clot. A 
visiting nurse ___ assist you in administering these 
injections. 

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 
 
Followup Instructions:
___